US08541448B2
Intermediate 2.1: diethyl 4-nitrophenylphosphonate
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of diethyl phosphonate (3.02 g, 21.88 mmol, 1.10 equiv) in toluene (10 mL), Pd(PPh3)4 (1.15 g, 1.00 mmol, 0.05 equiv), TEA (2.21 g, 21.88 mmol, 1.10 equiv), 1-bromo-4-nitrobenzene (4 g, 19.90 mmol, 1.00 equiv). The resulting solution was stirred for 15 h at 90° C. The solids were filtered out and the resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:2). This resulted in 3.53 g (68%) of diethyl 4-nitrophenylphosphonate as a yellow liquid.

reactant | diethyl phosphonate | 21.88 mmol, 3.02 g, 1.10 equiv | P(OCC)(OCC)=O | C4H11O3P
reactant | 1-bromo-4-nitrobenzene | 19.90 mmol, 4 g, 1.00 equiv | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.00 mmol, 1.15 g, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | diethyl 4-nitrophenylphosphonate | [N+](=O)([O-])C1=CC=C(C=C1)P(OCC)(OCC)=O | C10H14NO5P
